US08222416B2
A solution of 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-ethanol (184 mg, 0.33 mmol) in tetrahydrofuran (0.5 mL) and a tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 2 mL, 2 mmol) was stirred at room temperature for 2 h. The mixture was diluted with ethyl acetate (150 mL), washed with a saturated aqueous ammonium chloride solution and brine, dried over anhydrous sodium sulfate and concentrated in vacuo and the residue was washed with methanol to afford 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (50 mg, 64.1%) as a light yellow solid: LC/MS m/e calcd for C21H22N2O4S [M+H]+ 399.48, observed 399.3.

reactant | 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-ethanol | 0.33 mmol, 184 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(CC2OCCC2)(O)C2=CC=C(C=C2)S(=O)(=O)C | C27H28N2O7S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 mmol, 1 M, 2 mL | O1CCCC1 | C4H8O
product | 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 50 mg, 64.1% | CS(=O)(=O)C1=CC=C(C=C1)C(=CC1OCCC1)C1=CC=2C(=NC=C(C2)OC)N1 | C21H22N2O4S
